US07115639B2
Intermediate 8: (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N′-hydroxy-4-(methoxyimino)-2-pyrrolidinecarboximidamide (Scheme 8, compound XV)
According to the general method outlined above for the synthesis of Intermediates 8, triethylamine (1.94 ml, 13.94 mmol) was slowly added to a suspension of (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarbonitrile (3.71 g, 11.62 mmol) and hydroxylamine.hydrochloride (0.97 g, 13.94 mmol) in ethanol (150 ml), under stirring. The reaction mixture was allowed to stir at 80° C. for 16 h, and then cooled to ambient temperatures. The solvent was removed by evaporation and the solid was suspended in water (100 ml) then filtered. The solid was washed with diethyl ether (2×100 ml) whilst on the sinter and then dried in vacuo at 40° C., to give the desired product, (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N′-hydroxy-4-(methoxyimino)-2-pyrrolidinecarboximidamide (3.35 g, 82%).

reactant | triethylamine | 13.94 mmol, 1.94 ml | C(C)N(CC)CC | C6H15N
reactant | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarbonitrile | 11.62 mmol, 3.71 g | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C#N)C1=CC=CC=C1 | C19H17N3O2
reactant | hydroxylamine.hydrochloride | 13.94 mmol, 0.97 g | Cl.NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N′-hydroxy-4-(methoxyimino)-2-pyrrolidinecarboximidamide | 3.35 g, 82% | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(N)=NO)C1=CC=CC=C1 | C19H20N4O3
